US07705028B2
1b) Methyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate
An ice-cold mechanically stirred suspension of methyl 6-hydroxy-1-naphthoate (138 g, 0.68 mol) in toluene (1.3 L) was treated with a solution of tribasic potassium phosphate (414 g, 2 mol) in water (1.6 L). The resulting mixture was treated dropwise with triflic anhydride (142 mL, 0.84 mol) at a rate to maintain the reaction temperature at 25° C. After 1 hour triflic anhydride (56 mL, 0.33 mol) was added and stirring was continued. After 45 minutes another addition of triflic anhydride (30 mL, 0.18 mol) was made. After 20 min the toluene layer was separated and washed with water. The toluene layer was stirred with a fresh solution of tribasic potassium phosphate (106 g, 0.5 mol) in water (325 mL). Triflic anhydride (40 mL, 0.24 mol) was added dropwise. After approximately 20 minutes the layers were separated. The toluene layer was washed with water (2×400 mL) and concentrated to give 232 g of a brick-red solid (assume theoretical yield). 1H NMR (DMSO-d6): δ 8.92 (d, J=10 Hz, 1H), 8.33 (d, J=8 Hz, 1H), 8.27 (m, 1H), 8.24 (d, J=7 Hz, 1H), 7.77-7.72 (m, 2H), 3.93 (s, 3H). ESI-LCMS m/z 335 (M+H)+.

reactant | methyl 6-hydroxy-1-naphthoate | 0.68 mol, 138 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H10O3
reactant | potassium phosphate | 2 mol, 414 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triflic anhydride | 0.84 mol, 142 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 0.33 mol, 56 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 0.18 mol, 30 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | potassium phosphate | 0.5 mol, 106 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Triflic anhydride | 0.24 mol, 40 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | toluene | 1.3 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.6 L | O | H2O
solvent | water | 325 mL | O | H2O
product | Methyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate | 232 g | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(F)F | C13H9F3O5S
